US05668162
[S-(R*,R*)]-2-[2-[2-(1-Carboxy-3-methylbutyl-carbamoyl)-4-fluorophenyldisulfanyl]-5-fluorobenzoylamino]-4-methyl-pentanoic acid
The general method of Preparation 20 was followed using [S-(R*,R*)]-2-[2-[[2-(1-tert-butoxycarbonyl-3-methylbutylcarbamoyl)-4-fluorophenyldisulfanyl]-5-fluorobenzoylamino]-4-methylpentanoic acid tert-butyl ester (1.8 g, 2.6 mmol) in 20 mL dichloromethane, anisole (2 mL), and 20 mL trifluoroacetic acid. The crude product was recrystallized from methanol/water to afford 0.9 g of the title compound.

reactant | 2-[[2-(1-tert-butoxycarbonyl-3-methylbutylcarbamoyl)-4-fluorophenyldisulfanyl]-5-fluorobenzoylamino]-4-methylpentanoic acid tert-butyl ester | 2.6 mmol, 1.8 g | C(C)(C)(C)OC(C(CC(C)C)N(C(C1=CC=CC(=C1)F)=O)SSC1=C(C=C(C=C1)F)C(NC(CC(C)C)C(=O)OC(C)(C)C)=O)=O | C34H46F2N2O6S2
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | anisole | 2 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2-[2-[2-(1-Carboxy-3-methylbutyl-carbamoyl)-4-fluorophenyldisulfanyl]-5-fluorobenzoylamino]-4-methyl-pentanoic acid | 0.9 g | C(=O)(O)C(CC(C)C)NC(=O)C1=C(C=CC(=C1)F)SSC1=C(C(=O)NC(C(=O)O)CC(C)C)C=C(C=C1)F | C26H30F2N2O6S2
